US08957080B2
Into a 100 mL, 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate (300 mg, 0.68 mmol, 1.00 equiv), a solution of 2-[4-(2,3-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (290 mg, 0.87 mmol, 1.10 equiv) in dioxane (9 mL), tetrakis(triphenylphosphane)-palladium (40 mg, 0.03 mmol, 0.05 equiv), and a solution of sodium carbonate (179 mg, 1.67 mmol, 2.50 equiv) in water (3 mL). The resulting solution was stirred for 12 h at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum, and the solution was diluted with ethyl acetate. The resulting mixture was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (20/1) to give 250 mg (71%) of tert-butyl (2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate as a white solid.

reactant | tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 0.68 mmol, 300 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-[4-(2,3-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.87 mmol, 290 mg, 1.10 equiv | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=CC=C1F | C18H19BF2O3
reactant | sodium carbonate | 1.67 mmol, 179 mg, 2.50 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | tert-butyl (2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 250 mg, 71% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
